US05929281
A 200 ml Kjeldahl flask equipped with a cooling condenser and a thermometer was charged with a solution of 4.72 g of piperidine in 20 ml of o-xylene, a solution of 7.99 g of m-bromoanisole in 20 ml of o-xylene, and a solution of 5.66 g of NaOBut in 20 ml of o-xylene, and further with a solution of 48 mg of palladium acetate in 5 ml of o-xylene (the ratio of palladium atom/m-bromoanisole=0.5% by mole). The flask was flushed with nitrogen for about 20 minutes while the content was stirred, and 0.2 ml of tri-tert.-butylphosphine was added. Then the mixture was heated to 105° C., and maintained at that temperature for 3 hours with stirring. After completion of the reaction, 80 ml of water was added to cool the reaction product. The mixture was introduced in a separatory funnel and the organic phase was separated. The lower aqueous phase was extracted with 40 ml of o-xylene. The organic phase was dried over sodium sulfate, concentrated, and then distilled to give N-(3-methoxyphenyl)piperidine. The yield of the isolated compound was 95% by mole.

reactant | piperidine | 4.72 g | N1CCCCC1 | C5H11N
reactant | m-bromoanisole | 7.99 g | BrC=1C=C(C=CC1)OC | C7H7BrO
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 5 ml | CC=1C=CC=CC1C | C8H10
catalyst | palladium acetate | 48 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3-methoxyphenyl)piperidine | COC=1C=C(C=CC1)N1CCCCC1 | C12H17NO
